US09314464B2
Intermediate. Tert-butyl 5-chloro-2-fluoro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamate
A mixture of Intermediate tert-butyl 3-bromo-5-chloro-2-fluorophenylcarbamate (1.45 g, 4.46 mmol), bis(pinacolato)diboron (1.7 g, 6.69 mmol), potassium acetate (1.53 g, 15.6 mmol), PdCl2(dppf)-CH2Cl2 (163 mg, 0.22 mmol), and dioxane (100 ml) was heated in a sealed tube at 100° C. for 16 h. The crude reaction mixture was taken up in ethyl acetate and washed with aqueous sodium bicarbonate solution and brine. The organic layer was dried over sodium sulfate, filtered, and concentrated. The crude compound was diluted with hot hexane (600 mL), heated to 65° C. for 30 min. then cooled to room temperature. The brown mixture was filtered through Celite and the filter cake was washed with hexanes. The combined filtrates were concentrated to afford the crude title compound as a yellow oil. MS m/z 233 (M-pinacol-tBu).

reactant | tert-butyl 3-bromo-5-chloro-2-fluorophenylcarbamate | 4.46 mmol, 1.45 g | BrC=1C(=C(C=C(C1)Cl)NC(OC(C)(C)C)=O)F | C11H12BrClFNO2
reactant | bis(pinacolato)diboron | 6.69 mmol, 1.7 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 15.6 mmol, 1.53 g | C(C)(=O)[O-].[K+]
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.22 mmol, 163 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | Tert-butyl 5-chloro-2-fluoro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamate | ClC=1C=C(C(=C(C1)NC(OC(C)(C)C)=O)F)B1OC(C(O1)(C)C)(C)C | C17H24BClFNO4
